US07504508B2
(2S,4R)-N-(4-Chloro-phenyl)-N-{2-methyl-1-[4-(3-piperazin-1-yl-propoxy)-benzoyl]-1,2,3,4-tetrahydro-quinolin-4-yl}-acetamide (168 mg) was dissolved in CH2Cl2 (2 mL). Acetic chloride (47 mg) and DIEA (52 uL) were added. The reaction mixture was stirred at room temperature overnight. The organic phase was washed with sat. NaHCO3 (2×5 mL), dried over Na2SO4 and concentrated. The residue was purified by silica gel chromatography (EtOAc) to afford pure (2S,4R)-N-(1-{4-[3-(4-acetyl-piperazin-1-yl)-propoxy]-benzoyl}-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl)-N-(4-chloro-phenyl)-acetamide (100 mg, 57%).

reactant | (2S,4R)-N-(4-Chloro-phenyl)-N-{2-methyl-1-[4-(3-piperazin-1-yl-propoxy)-benzoyl]-1,2,3,4-tetrahydro-quinolin-4-yl}-acetamide | 168 mg | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OCCCN1CCNCC1)=O)C | C32H37ClN4O3
reactant | Acetic chloride | 47 mg | C(C)(=O)Cl | C2H3ClO
reactant | DIEA | 52 uL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (2S,4R)-N-(1-{4-[3-(4-acetyl-piperazin-1-yl)-propoxy]-benzoyl}-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl)-N-(4-chloro-phenyl)-acetamide | 100 mg, 57% | C(C)(=O)N1CCN(CC1)CCCOC1=CC=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)N(C(C)=O)C2=CC=C(C=C2)Cl)C)C=C1 | C34H39ClN4O4
